US07566735B2
1-{4-[1-methyl-2-oxo-2-(1-pyrrolidinyl)ethyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
A mixture of 1-[2-(4-bromophenyl)propanoyl]pyrrolidine (140 mg, 0.5 mmol), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (95 mg, 0.5 mmol), copper (I) iodide (10 mol %, 10 mg, 0.05 mmol), N,N-dimethylglycine (20 mol %, 10 mg, 0.1 mmol) and potassium carbonate (138 mg, 1 mmol) in dimethylsulfoxide (2 ml) was stirred at 190° C. in a microwave reactor for a total of 1.5 h. The reaction mix was cooled and partitioned between ethyl acetate and water. The organic layer was dried over sodium sulphate and the solvent removed under reduced pressure. The resulting product was purified firstly by adding the material in dichloromethane to a 5 g pre-packed silica column and eluting with ethyl acetate, followed by mass directed auto-prep to give a crop of the title compound as a brown oil (8 mg, 4%).

reactant | 1-[2-(4-bromophenyl)propanoyl]pyrrolidine | 0.5 mmol, 140 mg | BrC1=CC=C(C=C1)C(C(=O)N1CCCC1)C | C13H16BrNO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 0.5 mmol, 95 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | N,N-dimethylglycine | 0.1 mmol, 10 mg | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.05 mmol, 10 mg | [Cu]I
product | 1-{4-[1-methyl-2-oxo-2-(1-pyrrolidinyl)ethyl]phenyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 8 mg, 4% | CC(C(N1CCCC1)=O)C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C21H24F3N3O
